US04182757
3.3 g of L-rhamnose, 1.8 g of n-butylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 5-(1). 4.2 g of 1-(2-chloroethyl)-3-n-butyl-3-L-rhamnopyranosylurea are thereby obtained as colorless caramel.

reactant | L-rhamnose | 3.3 g | O=C[C@H](O)[C@H](O)[C@@H](O)[C@@H](O)C | C6H12O5
reactant | n-butylamine | 1.8 g | C(CCC)N | C4H11N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-n-butyl-3-L-rhamnopyranosylurea | 4.2 g | ClCCNC(=O)N(C1[C@H](O)[C@H](O)[C@@H](O)[C@@H](O1)C)CCCC | C13H25ClN2O5
